US07776847B2
N-(2-(5-Aminobenzo[d]isothiazol-3-ylamino)ethyl)picolinamide (95 mg, 0.30 mmol) was dissolved in anhydrous dichloromethane (5 mL) with triethylamine (50 μL, 0.36 mmol). The solution was cooled on an ice-water bath and a solution of acetyl chloride (26 μL, 0.36 mmol) in dichloromethane (0.5 mL) was added dropwise. The reaction mixture was allowed to stir for 2.5 h while warming to room temperature. The solution was diluted with dichloromethane, washed with saturated sodium bicarbonate solution, then dried over anhydrous sodium sulfate, filtered and the filtrate concentrated under reduced pressure to yield N-(2-(5-acetamidobenzo[d]isothiazol-3-ylamino)ethyl) picolinamide as a white solid. 1H NMR (300 MHz, CDCl3): 8.48 (d, 1H), 8.30 (s, 1H), 8.20 (d, 1H), 7.80 (t, 1H), 7.52 (s, 1H), 7.42 (m, 1H), 7.31 (d, 1H), 7.18 (s, 1H), 6.82 (d, 1H), 3.70 (m, 2H), 3.50 (m, 2H), 2.20 ppm (s, 3H). MW=355 confirmed by LC-MS, tr=9.35 min (Method Y) MH+=356.

reactant | N-(2-(5-Aminobenzo[d]isothiazol-3-ylamino)ethyl)picolinamide | 0.30 mmol, 95 mg | NC=1C=CC2=C(C(=NS2)NCCNC(C2=NC=CC=C2)=O)C1 | C15H15N5OS
reactant | triethylamine | 0.36 mmol, 50 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.36 mmol, 26 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | N-(2-(5-acetamidobenzo[d]isothiazol-3-ylamino)ethyl) picolinamide | C(C)(=O)NC=1C=CC2=C(C(=NS2)NCCNC(C2=NC=CC=C2)=O)C1 | C17H17N5O2S
